US04963543
To a suspension of sodium hydride (62.8% suspension in oil) (0.38 g) in N,N-dimethylformamide (12 ml) was added 5-mercapto-1-methyl-1H-tetrazole (1.14 g) under ice-cooling. The mixture was stirred at the same temperature for 30 minutes. This solution was added dropwise to a solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-methanesulfonyloxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (3.0 g) in N,N-dimethylformamide (60 ml) under ice-cooling. The mixture was stirred at 60°-70° C. for 2 hours. The reaction mixture was poured into ice-water (200 ml) and extracted 3 times with ethyl acetate (100 ml). The extracts were combined, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (40:1, V/V). The fractions containing the desired compound were collected and concentrated under reduced pressure to give (2S,4R)-4-t-butyldimethylsilyloxy-2-(1-methyl-1H-tetrazol- 5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.68 g).

reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | 5-mercapto-1-methyl-1H-tetrazole | 1.14 g | SC1=NN=NN1C | C2H4N4S
reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-methanesulfonyloxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 3.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COS(=O)(=O)C | C20H32N2O8SSi
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-4-t-butyldimethylsilyloxy-2-(1-methyl-1H-tetrazol- 5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.68 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSC1=NN=NN1C | C21H32N6O5SSi
